US04523030
26.6 g of finely pulverised aluminium chloride are suspended in 60 ml of methylene chloride. While stirring and while cooling slightly, 9.61 g of 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester, dissolved in a small amount of methylene chloride, are added dropwise at room temperature. After stirring for 30 minutes at room temperature, 15.85 g of o-fluorobenzoyl chloride are added dropwise thereto and the resulting reaction mixture is heated at reflux for 4 hours. After cooling, the reaction mixture is poured onto ice and extracted thoroughly with methylene chloride. The combined organic phases are washed with water, dried over magnesium sulphate and concentrated by evaporation. The yellow oily residue (20 g) is chromatographed over 400 g of silica gel with methylene chloride. Fractions 7-16 (50 ml fractions) are combined and concentrated. The residue is crystallised from ether/petroleum ether. 4-(o-fluorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester is obtained in the form of yellow crystals having a melting point of 59°-61°.

reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | 9.61 g | COC(=O)C1=CC2=C1C=C(C=C2)OC | C11H10O3
reactant | o-fluorobenzoyl chloride | 15.85 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 4-(o-fluorobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C(=C2)C(C2=C(C=CC=C2)F)=O)O | C17H11FO4
